US04115438
A solution of 3.4 g (16.3 mmol) of 5-(bicyclo[3.2.1]oct-2-ylidene)pentanoic acid in 100 ml of absolute ethanol was hydrogenated at 50 psi over 300 mg of platinum oxide in a Parr apparatus. After 1.5 hr hydrogen uptake became slow. After 4 hr the system was flushed with nitrogen, and the catalyst was removed by filtration through diatomaceous earth filter aid (Celite). The filtrate was evaporated in vacuo to yield 3.25 g (96%) of quite pure 5-(bicyclo[3.2.1]oct-2-yl)pentanoic acid as a colorless oil.

reactant | 5-(bicyclo[3.2.1]oct-2-ylidene)pentanoic acid | 16.3 mmol, 3.4 g | C12C(CCC(CC1)C2)=CCCCC(=O)O | C13H20O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum oxide | 300 mg | [Pt]=O
product | 5-(bicyclo[3.2.1]oct-2-yl)pentanoic acid | C12C(CCC(CC1)C2)CCCCC(=O)O | C13H22O2
